Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with hx of hypothyroidism, GERD, and recent incidental 
finding of 1cm cystic lesion near head of pancreas who presents 
1 day following EUS/bx with N/V and pain. Noted onset of pain 
evening following procedure. Descirbes pain as located in his 
mid-epigastric region with radiation to his L chest as well as 
RUQ. Chest pain has resolved but has persistent mid-epigastric 
pain and nausea. Vomited x1 today. Initially presented to OSH 
but was transferred to ___ for further care given procedure 
here yesterday.

Following hx regarding pancreatic lesion obtained from recent 
surgery note in OMR:

"found to have an approximate 1cm cystic lesion in the head of 
the pancreas on CT scan while being worked up for unrelated 
surgery.  He underwent elective gastric bypass for weight loss 
at ___ in
___ which was uncomplicated. In ___, he was 
diagnosed with appendicitis by CT scan and underwent 
laparoscopic appendectomy.  Following this, he had another CT 
scan in ___ after complaining of increasing abdominal pain 
and was found to have stump appendicitis.  At that time, he was 
informed that his CT scans dating back to at least ___ had 
shown a 1cm cyst in the head of the pancreas, and he was 
referred for further workup.  He underwent EUS with biopsy on 
___ which demonstrated a 1.4 x 1.2 cm cystic lesion without 
debris or mass. However, cytology demonstrated some atypical 
cells with round nuclei and abundant eccentric cytoplasm, 
raising concern for neuroendocrine tumor.  There were not enough 
cells present to obtain immunohistochemical stains, and CEA / 
___ were not obtained.

His case was reviewed in pancreatic multidisciplinary 
conference. Given the diagnostic uncertainty of his recent 
cytology, he was referred for repeat EUS which he underwent 
___. After the biopsy he and his wife went somewhere to eat 
and his pain started to increase slowly. He was only able to eat 
a few bites of his dinner. 

In the ED, vitals notable for: afebrile. 62, 158/79, 16, 98% RA. 
Labs notable for normal Chem 7, CBC, negative troponins, but 
lipase of 1800. Patient given 1L NS, Morphine and Zofran and 
admitted to medicine for further management.

On the floor, patient resting comfortably in bed with mild 
ongoing pain and nausea. Denies fevers, chills, endorses 
epigastric pain. Has no BMs since yesterday morning and didn't 
eat much of dinner last night. One episode of non-bloody emesis. 


 
Past Medical History:
PAST MEDICAL HISTORY:  

 - hypothyroidism
 - pre-diabetes, now resolved after gastric bypass (Hgb A1c 
prior
to surgery in ___ was 6.1%)
 - morbid obesity now s/p gastric bypass surgery (lost 115 lbs
since surgery in ___
 - GERD
 
PSH:

 - laparoscopic sleeve gastrectomy for weight loss in ___
 - laparoscopic appendectomy in ___, complicated by stump
appendicitis and subsequent stump appendectomy in ___
 - vasectomy
 - benign groin cyst removal ___
 - R index finger ganglion cyst removal
 - tonsillectomy
 
Social History:
___
Family History:
positive for endometrial cancer in his mother; otherwise 
negative
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  

VS: T:99 BP:167/80 P:64 R:18 O2: 99%RA 
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated 
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, tender to palpation especially in the epigastric 
region without rebound, mildly tender to palpation in the RUQ 
amd LUQ, non-distended, bowel sounds present, no rebound 
tenderness or guarding
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  WWP
NEURO:  A&Ox3, moves all extremities well

DISCHARGE PHYSICAL EXAM:

VS: 98.5 153/79 63 18 98%RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated 
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, no TTP, bowel sounds present, no rebound tenderness 
or guarding
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  WWP
NEURO:  A&Ox3, moves all extremities well
 
Pertinent Results:
ADMISSION LABS: 

___ 02:20PM   PLT COUNT-263
___ 02:20PM   NEUTS-82.3* LYMPHS-10.9* MONOS-6.2 EOS-0.0* 
BASOS-0.1 IM ___ AbsNeut-8.88* AbsLymp-1.18* AbsMono-0.67 
AbsEos-0.00* AbsBaso-0.01
___ 02:20PM   WBC-10.8* RBC-5.05 HGB-14.2 HCT-43.0 MCV-85 
MCH-28.1 MCHC-33.0 RDW-13.6 RDWSD-42.1
___ 02:20PM   ALBUMIN-4.1
___ 02:20PM   cTropnT-<0.01
___ 02:20PM   LIPASE-1839*
___ 02:20PM   ALT(SGPT)-19 AST(SGOT)-29 ALK PHOS-71 TOT 
BILI-1.4
___ 02:20PM   estGFR-Using this
___ 02:20PM   GLUCOSE-94 UREA N-13 CREAT-0.8 SODIUM-139 
POTASSIUM-3.8 CHLORIDE-103 TOTAL CO2-22 ANION GAP-18

DISCHARGE LABS:

___ 05:10AM BLOOD WBC-10.5* RBC-4.95 Hgb-13.7 Hct-42.6 
MCV-86 MCH-27.7 MCHC-32.2 RDW-13.8 RDWSD-42.9 Plt ___
___ 05:10AM BLOOD Plt ___
___ 05:10AM BLOOD Glucose-76 UreaN-10 Creat-0.8 Na-140 
K-4.5 Cl-102 HCO3-25 AnGap-18
___ 05:10AM BLOOD ALT-16 AST-30 AlkPhos-67 TotBili-1.7*
___ 05:10AM BLOOD Calcium-9.0 Phos-2.9 Mg-1.___ with hx of hypothyroidism, GERD, and recent incidental 
finding of 1cm cystic lesion near head of pancreas who presents 
1 day following EUS/bx with N/V and pain.

# Abdominal Pain, N/V - Most likely ___ pancreatititis given 
elevated lipase and symptoms. However, given prior associated 
chest pain, concern for cardiac etiology and patient underwent 
preoperative testing with normal stress echo per report. Less 
likely given negative troponins and unremarkable EKG and 
resolution of symptoms. Finally, also must consider 
complitaction/perforation from EUS/biopsy procedure so will 
monitor closely while treating for pancretitis. We started him 
on LR at 200cc/hr and controlled his pain with IV dilauded 
0.25-0.5mg q4H:PRN. We also started him on sips overnight, which 
he tolerated well, and advanced his diet in the morning. 

# S/P EUS/Biopsy
- We continued his 500 mg ciprofloxicin BID. 

TRANSITIONAL ISSUES:
======================
- If found to have definitive dx of neuroendocrine tumor, 
consider f/u with Dr. ___
- ___ at ___ follow up to ensure stable
- Continue Cipro 500mg BID x 5 days post procedure (last dose 
___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins W/minerals 1 TAB PO DAILY 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Ciprofloxacin HCl 500 mg PO Q12H 

 
Discharge Medications:
1. Ciprofloxacin HCl 500 mg PO Q12H 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Pancreatitis

Secondary Diagnosis
- Pancreatic Head Mass
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital because of abdominal pain, nausea and 
vomiting. We think this was due to pancreatitis. We gave you IV 
fluids and pain control. We advanced your diet and you were 
tolerating PO intake without pain prior to discharge. You should 
follow up with the surgeons to determine the results of your 
biopsy from ___.

We wish you all the best.

Sincerely,

Your ___ Team
 
Followup Instructions:
___